US04281000
3-Methyl-7-(6-methyl-2-pyridyl)pyrazolo[1,5-a]pyrimidine
As for example 53, a mixture of 3-dimethylamino-1-(6-methyl-2-pyridyl)-2-propen-1-one and 3-amino-4-methylpyrazole in glacial acetic is refluxed for 4 hours to give the product of the example.

reactant | 3-dimethylamino-1-(6-methyl-2-pyridyl)-2-propen-1-one | CN(C=CC(=O)C1=NC(=CC=C1)C)C | C11H14N2O
reactant | 3-amino-4-methylpyrazole | NC1=NNC=C1C | C4H7N3
solvent | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
product | 3-Methyl-7-(6-methyl-2-pyridyl)pyrazolo[1,5-a]pyrimidine | CC=1C=NN2C1N=CC=C2C2=NC(=CC=C2)C | C13H12N4
